US07265246B2
2-Phenylsulfanyl-ethylamine
Mix 2-aminoethanethiol hydrochloride (4.07 g, 35.6 mmol) in dioxane (75 mL) at 50° C. Add sodium hydride (60% in mineral oil, 2.84 g, 71.0 mmol) at room temperature under nitrogen. Stir the reaction for 5 minutes. Add 2-chloropyridine (3.5 mL, 37 mmol) to the mixture. Reflux the mixture for 24 hours, and then cool to room temperature. Add water (100 mL), and methylene chloride (300 mL) to this mixture. Extract the aqueous layer with methylene chloride (3×50 mL). Wash the combined organic phase with brine (200 mL), dry (magnesium sulfate), filter and concentrate to an orange oil. Perform flash chromatography on silica gel eluting with 50% (80:18:12 CHCl3/MeOH/concentrated NH4OH)/methylene chloride to afford the title compound as a yellow oil (1.67 g) m/e=155 (MH+).

reactant | 2-aminoethanethiol hydrochloride | 35.6 mmol, 4.07 g | Cl.NCCS
reactant | sodium hydride | 71.0 mmol, 2.84 g | [H-].[Na+]
reactant | 2-chloropyridine | 37 mmol, 3.5 mL | ClC1=NC=CC=C1 | C5H4ClN
reactant | water | 100 mL | O | H2O
reactant | dioxane | 75 mL | O1CCOCC1 | C4H8O2
solvent | methylene chloride | 300 mL | C(Cl)Cl | CH2Cl2
product | 2-Phenylsulfanyl-ethylamine | 1.67 g | C1(=CC=CC=C1)SCCN | C8H11NS
